US06083961
To a solution of 4-benzyloxy-1-(3-hydroxypropyl)-2-thioxo-2,3-dihydro-1H-benzimidazole (70 mg) in acetonitrile (2 ml) was added methyl iodide (37.9 mg), and the mixture was stirred overnight. The reaction mixture was concentrated in vacuo. The residue was purified by preparative thin layer chromatography and pulverized with diisopropyl ether to give 4-benzyloxy-1-(3-hydroxypropyl)-2-methylthio-1H-benzimidazole (67 mg).

reactant | 4-benzyloxy-1-(3-hydroxypropyl)-2-thioxo-2,3-dihydro-1H-benzimidazole | 70 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(NC21)=S)CCCO | C17H18N2O2S
reactant | methyl iodide | 37.9 mg | CI | CH3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-benzyloxy-1-(3-hydroxypropyl)-2-methylthio-1H-benzimidazole | 67 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)SC)CCCO | C18H20N2O2S
